US08012966B2
2-[4-(2-Hydroxy-ethyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (prepared according to US2004186160) as starting materials to give 2-[4-(2-hydroxy-ethyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (30 mg, 30.0%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
product | 2-[4-(2-hydroxy-ethyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 30 mg, 30.0% | OCCC1=C2C(C(NC2=CC=C1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCC1)=O)C | C25H30N4O3
